US07476684B2
Ethyl 4-(3-chlorophenyl)-2,4-dioxobutanoate
Sodium ethoxide (117.8 g, 1.73 mol) was added in portions to a solution of 3-chloroacetophenone (178.5 g, 1.15 mol) and diethyl oxalate (188 mL, 1.39 mol) in ethanol (3 L) at 0° C. The mixture was stirred at room temperature for 1 h and was then heated at 70° C. for 2 h. After cooling, the mixture was acidified with 3M hydrochloric acid (pH˜3). The solvent was distilled off and to the mixture was added EtOAc. The organic layer was washed with water and saturated brine. The solvent was distilled off to give crude title product, which was used directly in the next step. MS (M+−1)=253.

reactant | Sodium ethoxide | 1.73 mol, 117.8 g | [O-]CC.[Na+]
reactant | 3-chloroacetophenone | 1.15 mol, 178.5 g | CC(=O)C1=CC(=CC=C1)Cl | C8H7ClO
reactant | diethyl oxalate | 1.39 mol, 188 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | hydrochloric acid | 3M, pH˜3 | Cl | ClH
solvent | ethanol | 3 L | C(C)O | C2H6O
product | Ethyl 4-(3-chlorophenyl)-2,4-dioxobutanoate | ClC=1C=C(C=CC1)C(CC(C(=O)OCC)=O)=O | C12H11ClO4
